2130-03-26 09:54:00 Physician Attending Progress Note
Chief Complaint: PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79M with critical AS, initially admitted for cardiac surgery but PNA
   uncovered, now on braod abx. Hospital course c/b ARF, lactate
   elevation, shock likely multifactorial with large component
   hypovolemia/vasodation:
   24 Hour Events:
   - FiO2 weaned to much lower
                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2130-3-25**] 04:23 AM
   Vancomycin - [**2130-3-25**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-3-25**] 10:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   norepi, sqh, [**Last Name (LF) 12116**], [**First Name3 (LF) **], b12, advair, zosyn, riss, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-3-26**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 105 (94 - 108) bpm
   BP: 104/71(76) {70/44(52) - 132/71(76)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 69 Inch
   CO/CI (Fick): (6.6 L/min) / (3.4 L/min/m2)
   Mixed Venous O2% Sat: 60 - 75
   Total In:
                                                                  3,398 mL
                                                                     65 mL
   PO:
   TF:
   IVF:
                                                                  3,398 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                  1,410 mL
   Urine:
                                                                  1,365 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,033 mL
                                                                 -1,345 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   RSBI Deferred: RR >35
   SpO2: 98%
   ABG: 7.40/48/37/26/3
   PaO2 / FiO2: 74
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distal HS
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   273 K/uL
   97 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   37 mg/dL
   91 mEq/L
   129 mEq/L
   35.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2130-3-25**]  05:31 AM
                             [**2130-3-25**]  07:06 AM
                             [**2130-3-25**]  09:37 AM
                             [**2130-3-25**]  11:24 AM
                             [**2130-3-25**]  05:22 PM
                             [**2130-3-26**]  03:26 AM
   WBC
   11.7
   Hct
   37.9
   35.1
   Plt
   273
   Cr
   1.6
   1.5
   1.5
   1.3
   TCO2
   23
   31
   Glucose
   [**Telephone/Fax (2) 12114**]
   Other labs: ALT / AST:886/928, Alk Phos / T Bili:156/1.2, Lactic
   Acid:2.3 mmol/L, Albumin:2.8 g/dL, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   Imaging: cxr: dense R base consolidation
   Assessment and Plan
   79M with critical AS, initially admitted for cardiac surgery but PNA
   uncovered, now on braod abx. Hospital course c/b ARF, lactate
   elevation, shock likely multifactorial with large component
   hypovolemia/vasodation.
   With gentle fluid boluses, ARF is resoling, shock liver is resolving,
   femoral venous sat and lactate is trending down. He is still on
   norepinephrine but the requirement is decreasing. He has low baseline
   bp given low EF and critical AS. Will titrate down norepineophrine and
   continue gentle bolus to keep up with autodiuresis.
   He will complete at least an 8-day course of vancomycin and Zosyn for
   HAP.
   Cardiac surgery is aware and they would prefer to defer the surgery
   until PNA is treated. Awaiting cath results from [**Hospital3 **] or
   from cardiac surgery service.
   ICU Care
   Nutrition: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-3-25**] 06:18 AM
   18 Gauge - [**2130-3-25**] 06:22 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-03-27 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ---levophed weaned off
   ---by 1900 was -960cc so gave 500cc of fluid back
   ---acutely SOB at 0300, got CXR that showed worsened R pulm edema, gave
   20mg IV lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2130-3-25**] 04:23 AM
   Vancomycin - [**2130-3-26**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-3-27**] 05:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-3-27**] 03:27 AM
   Heparin Sodium (Prophylaxis) - [**2130-3-27**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-27**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 98 (73 - 112) bpm
   BP: 79/51(58) {75/25(47) - 132/71(81)} mmHg
   RR: 24 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 69 Inch
             Total In:
                                                                  2,111 mL
                                                                    539 mL
   PO:
                                                                  1,200 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    911 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  2,249 mL
                                                                  2,625 mL
   Urine:
                                                                  2,249 mL
                                                                  2,625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -138 mL
                                                                 -2,086 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Gen: well appearing, NAD
   Lungs: Decreased bs bilaterally, audible breath sounds in apices, LLL
   crackles
   Heart: s1/s2 present, 3/6 systolic ejection murmur
   Abd: +BS, soft, NT
   Ext: 1+ LE edema
   Labs / Radiology
   224 K/uL
   12.6 g/dL
   127 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.8 mEq/L
   27 mg/dL
   91 mEq/L
   129 mEq/L
   38.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2130-3-25**]  05:31 AM
                             [**2130-3-25**]  07:06 AM
                             [**2130-3-25**]  09:37 AM
                             [**2130-3-25**]  11:24 AM
                             [**2130-3-25**]  05:22 PM
                             [**2130-3-26**]  03:26 AM
                             [**2130-3-27**]  03:01 AM
   WBC
   11.7
   10.8
   Hct
   37.9
   35.1
   38.3
   Plt
   273
   224
   Cr
   1.6
   1.5
   1.5
   1.3
   1.2
   TCO2
   23
   31
   Glucose
   [**Telephone/Fax (2) 12114**]
   127
   Other labs: ALT / AST:886/928, Alk Phos / T Bili:156/1.2, Lactic
   Acid:2.3 mmol/L, Albumin:2.8 g/dL, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   79 year old man with hospital-acquired pneumonia, who has failed
   outpatient treatment with azithromycin, and then levofloxacin, now
   admitted with worsening dyspnea, CXR evidence of worsening pna and
   leukocytosis all suggestiver of HAP.
   .
    # HAP: Continues to have productive cough and significant mucous
   production. Respiratory status complicated by right sided pulmonary
   edema.
   -cont Vanc/Zosyn (10 day course)
   -supplemental O2 (currently on 3L O2 via NC)
   -nebs prn
   -guaifenasin and chest PT
   -f/u blood cultures
   .
   # Acute on Chronic Systolic HF: Worsened pulm edema on CXR overnight.
   Hypoxia and work of breathing improved with lasix.
   -goal even
   .
   # Femoral  Line: remove line
   -has 3 PIVs
   .
   # Hypotension: baseline has low BPs related to low EF and critical AS.
   Continue to monitor UOP, lactate and central venous sat. UOP robust and
   cr / LFTs improving inferring improved perfusion
   -goal MAP 55-60
   -when pneumonia improves will need AVR/bentyl, cardiac surgery is
   following in case surgery is required more urgently
   .
   # Hyponatremia:  Likely hypovolemic hyponatremia.
   -trying to keep slightly negative to even given tenuous hemodynamics
   .
   # ARF: Cr improved to 1.2
   .
   # Critical AS: Requested records from [**Hospital6 1102**]
   .
   # Gout: Continue allopurinol. No evidence of current exacerbation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-3-25**] 06:18 AM
   18 Gauge - [**2130-3-25**] 06:22 AM
   Prophylaxis:
   DVT:  Hep SC, VDB
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, has remained off vasopressors
   Tm:   98.7   P: 106     BP: 81/51  Oxygen Saturation:   97% NC on 2
   liters
   General: Awake, alert NAD
   Chest: crackles at bases
   Heart: Distant heart tones
   Abd: Soft NT ND
   Ext: warm, trace peripheral edema
   Labs: reviewed and as above
 WBC down from 14 to 10
   - resolving hyponatremia
   Assessment:
   1)      Pneumonia
   2)      Aortic Stenosis (critical)
   3)      Shock
 resolved
 at baseline BP, good urine output, lactate
   cleared.
   Plan:
   1)      Continue Vanc/Zosyn
   2)      Conservative fluid management given aortic stenosis
   3)      Surgery as soon as deemed stable from pneumonia standpoint ->
   will discuss with cardiothrocic surgery about possibilities of surgery
   tomorrow or near-future
   4)      Discontinue central line as it is in femoral vein.  If becomes
   unstable again, will place IJ
   5)      Out of bed, advance diet
   Time Spent: 30 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2130-3-27**] 03:09 PM ------

2130-04-02 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --talk to cards about pacer placement given he has AV dyschrony
   (prolonged PR)
   --post void residual 0
   --having intractable cough, improved with guiafenison/codeine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-1**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-4-1**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-2**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 100 (97 - 114) bpm
   BP: 78/53(58) {70/53(58) - 100/76(81)} mmHg
   RR: 22 (14 - 42) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,850 mL
                                                                    321 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,010 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    400 mL
   Urine:
                                                                  1,330 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Well appearing
   Decreased BS at bases, otherwise good air movement
   S1/S2 present no murmurs
   No peripheral edema
   Labs / Radiology
   135 K/uL
   12.7 g/dL
   78 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.7 mEq/L
   25 mg/dL
   90 mEq/L
   132 mEq/L
   38.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2130-3-25**]  11:24 AM
                             [**2130-3-25**]  05:22 PM
                             [**2130-3-26**]  03:26 AM
                             [**2130-3-27**]  03:01 AM
                             [**2130-3-28**]  03:04 AM
                             [**2130-3-29**]  04:01 AM
                             [**2130-3-30**]  03:59 AM
                             [**2130-3-31**]  04:01 AM
                             [**2130-4-1**]  04:12 AM
                             [**2130-4-2**]  04:31 AM
   WBC
   11.7
   10.8
   11.8
   9.5
   9.6
   8.3
   9.8
   13.0
   Hct
   35.1
   38.3
   36.8
   34.6
   39.2
   34.9
   37.4
   38.9
   Plt
   273
   224
   206
   159
   148
   115
   143
   135
   Cr
   1.5
   1.5
   1.3
   1.2
   1.0
   0.9
   0.9
   0.9
   1.1
   1.3
   Glucose
   137
   92
   97
   127
   92
   96
   101
   100
   78
   78
   Other labs: ALT / AST:164/75, Alk Phos / T Bili:112/1.1, Lactic
   Acid:2.3 mmol/L, Albumin:2.8 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   79 year old man with failed outpt treatment for CAP, now being treated
   with vanc/zosyn awaiting AVR for critical AS.
   .
   # Diarrhea:
   -check cdiff
   .
   # HAP: improving but continues to have cough. Treating with zosyn and
   vanco x 10 day course, last day [**4-4**].
   -cont zosyn and vancomycin
   -Neg sputum cxs to date. continue to f/u cultures
   -guaifenasin with codeine for cough at night, chest PT
   .
    #  Atrial tachycardia: not tolerated well given systolic CHF and
   critical AS.
   -continue to uptitrate beta blocker as BP tolerates
   .
    # Systolic CHF / Critical AS: Plan for AVR when antibiotic course for
   pneumonia completed. Most likely will keep prior surgery date of
   [**2130-4-4**].
   -i/o balance even
   -cont PO lasix
   -daily weights
   -BP goal MAP > 55, monitor UOP and MS
   .
    # [**Last Name (un) **]: Increased cr may be related to PO lasix. Cont to monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-2**] 06:16 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2130-04-03 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shortness of breath
   24 Hour Events:
   [**2130-4-2**]
   -- Cardiology did not think he would need pacer/ICD as he has narrow
   QRS and his low EF may improve after surgery; also said to run it by EP
   service on Monday morning
   -- held pm vanco as trough as 36
   -- patient with diarrhea; C. diff sent and pending
   --CT [**Doctor First Name 91**] requested that Hit Ab be sent. Was ordered on [**3-31**] but never
   sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-2**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2130-4-3**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-3**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 76 (73 - 105) bpm
   BP: 84/59(64) {73/31(47) - 131/77(87)} mmHg
   RR: 16 (15 - 36) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,260 mL
                                                                    449 mL
   PO:
                                                                    590 mL
                                                                    280 mL
   TF:
   IVF:
                                                                    670 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    700 mL
   Urine:
                                                                  1,350 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Well appearing
   Decreased BS at bases, otherwise good air movement
   S1/S2 present no murmurs
   No peripheral edema
   Labs / Radiology
   135 K/uL
   12.7 g/dL
   78 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.7 mEq/L
   25 mg/dL
   90 mEq/L
   132 mEq/L
   38.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2130-3-25**]  11:24 AM
                             [**2130-3-25**]  05:22 PM
                             [**2130-3-26**]  03:26 AM
                             [**2130-3-27**]  03:01 AM
                             [**2130-3-28**]  03:04 AM
                             [**2130-3-29**]  04:01 AM
                             [**2130-3-30**]  03:59 AM
                             [**2130-3-31**]  04:01 AM
                             [**2130-4-1**]  04:12 AM
                             [**2130-4-2**]  04:31 AM
   WBC
   11.7
   10.8
   11.8
   9.5
   9.6
   8.3
   9.8
   13.0
   Hct
   35.1
   38.3
   36.8
   34.6
   39.2
   34.9
   37.4
   38.9
   Plt
   273
   224
   206
   159
   148
   115
   143
   135
   Cr
   1.5
   1.5
   1.3
   1.2
   1.0
   0.9
   0.9
   0.9
   1.1
   1.3
   Glucose
   137
   92
   97
   127
   92
   96
   101
   100
   78
   78
   Other labs: ALT / AST:164/75, Alk Phos / T Bili:112/1.1, Lactic
   Acid:2.3 mmol/L, Albumin:2.8 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   79 year old man with failed outpt treatment for CAP, now being treated
   with vanc/zosyn awaiting AVR for critical AS.
   .
   # Diarrhea: Cdiff toxin neg x 1.
   -f/u WBC ct from today
   -check another cdiff
   .
   # HAP: Remains afebrile. Last day  ABX [**4-4**].
   -check vanco trough today, was elevated yesterday
   -Neg sputum cxs to date. continue to f/u cultures
   -guaifenasin with codeine for cough at night, chest PT
   .
   # Thrombocytopenia: Awaiting labs from today. Plt count has remained
   stable. Very low suspicion for HIT.
   -HIT Ab sent
   -not stopping heparin products given low suspicion for heparin ab
   .
   #  Atrial tachycardia:
   -continue current dose of BB
   .
    # Systolic CHF / Critical AS: Plan for AVR when antibiotic course for
   pneumonia completed.
   -f/u with CT [**Doctor First Name 91**] about date of surgery
   -i/o balance even
   -cont PO lasix
   -daily weights
   -BP goal MAP > 55, monitor UOP and MS
   .
    # [**Last Name (un) **]: Awaiting today
s Cr
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-2**] 06:16 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2130-04-03 11:47:00 Physician Attending Progress Note
Chief Complaint:  LUL PNA, Critical AS
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Resp distress
   24 Hour Events:
   Cardiology consulted regarding possible pacemaker placement intra-op
   but will likely defer
   Rising WBC and increased diarrhea, cdif toxin pending
   Increasing cough
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-2**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2130-4-3**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-3**] 06:00 AM
   Other medications:
   allopurinol
   asa
   B12 100 po qday
   advair
   zosyn 4.5 q8
   RISS
   vanc 1 g [**Hospital1 **]
   lopressor 37.5 TID
   lasix 20 po qday
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-3**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 70 (68 - 105) bpm
   BP: 91/63(69) {73/31(47) - 118/77(87)} mmHg
   RR: 22 (15 - 36) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,260 mL
                                                                    855 mL
   PO:
                                                                    590 mL
                                                                    640 mL
   TF:
   IVF:
                                                                    670 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  1,000 mL
   Urine:
                                                                  1,350 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 4L
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.7 g/dL
   135 K/uL
   78 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.7 mEq/L
   25 mg/dL
   90 mEq/L
   132 mEq/L
   38.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2130-3-25**]  11:24 AM
                             [**2130-3-25**]  05:22 PM
                             [**2130-3-26**]  03:26 AM
                             [**2130-3-27**]  03:01 AM
                             [**2130-3-28**]  03:04 AM
                             [**2130-3-29**]  04:01 AM
                             [**2130-3-30**]  03:59 AM
                             [**2130-3-31**]  04:01 AM
                             [**2130-4-1**]  04:12 AM
                             [**2130-4-2**]  04:31 AM
   WBC
   11.7
   10.8
   11.8
   9.5
   9.6
   8.3
   9.8
   13.0
   Hct
   35.1
   38.3
   36.8
   34.6
   39.2
   34.9
   37.4
   38.9
   Plt
   273
   224
   206
   159
   148
   115
   143
   135
   Cr
   1.5
   1.5
   1.3
   1.2
   1.0
   0.9
   0.9
   0.9
   1.1
   1.3
   Glucose
   137
   92
   97
   127
   92
   96
   101
   100
   78
   78
   Other labs: ALT / AST:164/75, Alk Phos / T Bili:112/1.1, Lactic
   Acid:2.3 mmol/L, Albumin:2.8 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Microbiology: Cdif negative
   Assessment and Plan
   79 M with AS here with pneumonia
   1. elevated WBC and diarrhea: decreasing stools, f/u cbc today, repeat
   Cdif
   2. Pneumonia: complete vanc/zosyn through [**4-5**]. I am not sure he is in
   the best possible situation for AVR at this time.
   He is significantly better with stable BP/HR and improving cough/
   secretion output. He may need a few more days of supoortive care before
   being cleared for thoractomy/ AVR
   3. Atrial tachycardia: cont lopressor
   4. CHF: po lasix, aim TBB even
   5. Thrombocytopenia: improving, f/u HIT as requested by CT surgery
   6. AVR surgery: f/u timing with CT surgery, cxr, blood bank sample
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-4-2**] 05:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : if no plans for AVR tomorrow, will transfer to step down
   service
   Total time spent: 45 minutes
   Patient is chronically ill

2130-04-04 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -HIT antibody positive
   -heparin products discontinued, argatroban started, hematology
   consulted, CT surgery notified
   -Surgery postponed
   -patient's outpatient Cardiologist Dr. [**First Name8 (NamePattern2) 768**] [**Last Name (NamePattern1) 12291**] [**Telephone/Fax (1) 12292**]
   updated and would appreciate update or d/c summary and end of patient's
   stay
   -pre-op CXR deferred until closer to surgery date
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-3**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-4-4**] 06:14 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-3**] 01:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-4**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 89 (88 - 105) bpm
   BP: 80/59(64) {79/55(59) - 156/88(97)} mmHg
   RR: 14 (14 - 36) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,748 mL
                                                                    200 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    748 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    300 mL
   Urine:
                                                                  1,825 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   Well appearing
   Decreased good air movement, bilateral crackles at bottom
 lung fields
   S1/S2 present no murmurs
   No peripheral edema
   Labs / Radiology
   [**2130-4-3**] C. diff neg x 2
   148 K/uL
   13.5 g/dL
   121 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.2 mEq/L
   38 mg/dL
   87 mEq/L
   130 mEq/L
   40.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2130-3-26**]  03:26 AM
                             [**2130-3-27**]  03:01 AM
                             [**2130-3-28**]  03:04 AM
                             [**2130-3-29**]  04:01 AM
                             [**2130-3-30**]  03:59 AM
                             [**2130-3-31**]  04:01 AM
                             [**2130-4-1**]  04:12 AM
                             [**2130-4-2**]  04:31 AM
                             [**2130-4-3**]  11:41 AM
                             [**2130-4-4**]  04:24 AM
   WBC
   11.7
   10.8
   11.8
   9.5
   9.6
   8.3
   9.8
   13.0
   9.8
   11.0
   Hct
   35.1
   38.3
   36.8
   34.6
   39.2
   34.9
   37.4
   38.9
   40.8
   40.9
   Plt
   273
   224
   206
   159
   148
   115
   143
   135
   132
   148
   Cr
   1.3
   1.2
   1.0
   0.9
   0.9
   0.9
   1.1
   1.3
   1.5
   1.5
   Glucose
   97
   127
   92
   96
   101
   100
   78
   78
   181
   121
   Other labs: PT / PTT / INR:28.8/70.2/2.8, ALT / AST:783/860, Alk Phos /
   T Bili:116/1.4, Differential-Neuts:76.0 %, Lymph:14.2 %, Mono:7.8 %,
   Eos:1.8 %, Fibrinogen:353 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.8
   g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   79 year old man with failed outpt treatment for CAP, now being treated
   with vanc/zosyn awaiting AVR for critical AS.
   .
   # HAP: Remains afebrile. Last day ABX [**4-4**].  Discontinue antibiotics
   today.
   -Neg sputum cxs to date.
   -guaifenasin with codeine for cough at night, chest PT
   # Thrombocytopenia: Plt count has remained stable. HIT Ab sent:
   returned positive. Stopped heparin products. Started Argatroban.
   Consulted hematology.  Believe low likelihood of HIT.  Will send
   seratonin release assay today to confirm.
   -  switch to leparudin as patient with elevated LFTs on argatroban.
   # Elevated LFTs: Initially elevated on presentation thought to be due
   to shock liver.  Improved over the next two weeks.  Now significantly
   elevated again in setting of starting argatroban.  Unclear if this
   represents recurrent shock liver (as he has elevated Cr and
   hyponatremia consistent with poor perfusion) or drug effect from
   Argatroban.
   - will continue to trend LFTs
   - stop argatroban now
   .
   # Hyponatremia: Likely due to low intravascular volume and CHF.  Urine
   sodium 15 today suggesting intravascular dry. Trial of fluid challenge
   (500 cc).
   - pm lytes after fluid challenge.
   .
   #  Atrial tachycardia:
   -continue current dose of BB
   .
   # Diarrhea: Resolving (only small amounts). Cdiff toxin neg x 2.  WBC
   stable. Symptomatic control.
   .
    # Systolic CHF / Critical AS: Plan for AVR when antibiotic course for
   pneumonia completed and HIT work up completed.
   -f/u with CT [**Doctor First Name 91**] about date of surgery
   -cont PO lasix
   -daily weights
   -BP goal MAP > 55, monitor UOP and MS
    # [**Last Name (un) **]: Cr remains elevated.
   ICU Care
   Nutrition: Regular cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-3**] 06:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to ICU

2130-04-04 11:37:00 Physician Attending Progress Note
Chief Complaint:  Shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Critical AS, LUL Pneumonia, CHF
   24 Hour Events:
   HIT returned positive and transitioned to argatroban
   cardiac surgery postponed
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2130-4-4**] 06:14 AM
   Vancomycin - [**2130-4-4**] 08:05 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-3**] 01:44 PM
   Other medications:
   asa 81
   vit B12
   Advair [**Hospital1 **]
   zosyn 4.5
   vanc 1 [**Hospital1 **]
   lopressor
   argatroban
   guafenesin
   tessalon
   miconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-4**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 97 (88 - 105) bpm
   BP: 88/55(63) {79/55(59) - 156/88(97)} mmHg
   RR: 31 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm), 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,748 mL
                                                                    679 mL
   PO:
                                                                  1,000 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    748 mL
                                                                    439 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    700 mL
   Urine:
                                                                  1,825 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Crackles : L > R)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   13.5 g/dL
   148 K/uL
   121 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.2 mEq/L
   38 mg/dL
   87 mEq/L
   130 mEq/L
   40.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2130-3-26**]  03:26 AM
                             [**2130-3-27**]  03:01 AM
                             [**2130-3-28**]  03:04 AM
                             [**2130-3-29**]  04:01 AM
                             [**2130-3-30**]  03:59 AM
                             [**2130-3-31**]  04:01 AM
                             [**2130-4-1**]  04:12 AM
                             [**2130-4-2**]  04:31 AM
                             [**2130-4-3**]  11:41 AM
                             [**2130-4-4**]  04:24 AM
   WBC
   11.7
   10.8
   11.8
   9.5
   9.6
   8.3
   9.8
   13.0
   9.8
   11.0
   Hct
   35.1
   38.3
   36.8
   34.6
   39.2
   34.9
   37.4
   38.9
   40.8
   40.9
   Plt
   273
   224
   206
   159
   148
   115
   143
   135
   132
   148
   Cr
   1.3
   1.2
   1.0
   0.9
   0.9
   0.9
   1.1
   1.3
   1.5
   1.5
   Glucose
   97
   127
   92
   96
   101
   100
   78
   78
   181
   121
   Other labs: PT / PTT / INR:28.8/70.2/2.8, ALT / AST:783/860, Alk Phos /
   T Bili:116/1.4, Differential-Neuts:76.0 %, Lymph:14.2 %, Mono:7.8 %,
   Eos:1.8 %, Fibrinogen:353 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.8
   g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   79 yo M with recent dx AS awaiting repair, admitted with pneumonia
   1. PNA: complete abx today
   2. HIT+: f/u SRA, f/u heme recs, LFTs rising and will discontinue
   argatroban ? leperudin
   3. LFT elevation: likely [**2-7**] argatroban, will f/u after discontinuing
   4. FEN: cont to run tbb even
   5. Surgery: will touch base with cardiac surgery regarding date
   6. Atrial tachycardia: stable on lopressor
   7. Hyponatremia: UNa < 15, will give 500 cc and repeat Lytes
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-4-3**] 06:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes
   Patient is chronically ill